US06927230B2
A mixture of 2,2,2-trifluoro-N′-(6-methoxypyridin-3-yl)ethanehydrazonamide (0.2 g, 0.854 mmol), 4-methoxybenzoyl chloride (175 mg, 1.02 mmol), pyridine (0.083 mL, 1.02 mmol), and 4-dimethylaminopyridine (125 mg, 1.02 mmol) in dioxane (2 mL) was refluxed with stirring overnight. After cooling, the solvent was removed under reduced pressure. ethyl acetate-tetrahydrofuran (9:1) and water was poured into the residue and the organic layer was separated, washed with 0.1 N hydrochloric acid, water, and brine, and dried over magnesium sulfate. The solvent was removed under reduced pressure and the residue was purified by column chromatography to give 2-methoxy-5-[5-(4-methoxyphenyl)-3-(trifluoromethyl)-1H-1,2,4-triazol-1-yl]pyridine (57 mg, 19.1% yield).

reactant | 2,2,2-trifluoro-N′-(6-methoxypyridin-3-yl)ethanehydrazonamide | 0.854 mmol, 0.2 g | FC(C(N)=NNC=1C=NC(=CC1)OC)(F)F | C8H9F3N4O
reactant | 4-methoxybenzoyl chloride | 1.02 mmol, 175 mg | COC1=CC=C(C(=O)Cl)C=C1 | C8H7ClO2
reactant | pyridine | 1.02 mmol, 0.083 mL | N1=CC=CC=C1 | C5H5N
catalyst | 4-dimethylaminopyridine | 1.02 mmol, 125 mg | CN(C1=CC=NC=C1)C | C7H10N2
solvent | dioxane | 2 mL | O1CCOCC1 | C4H8O2
product | 2-methoxy-5-[5-(4-methoxyphenyl)-3-(trifluoromethyl)-1H-1,2,4-triazol-1-yl]pyridine | 57 mg, 19.1% yield | COC1=NC=C(C=C1)N1N=C(N=C1C1=CC=C(C=C1)OC)C(F)(F)F | C16H13F3N4O2
